US06809097B1
A solution of 4-methoxy-3-(2-methoxyethoxy)aniline (5 g, 25.3 mmol) and diethyl ethoxymethylenemalonate (6 ml, 30 mmol) was heated at 110° C. for 30 minutes. Phenyl ether (5 ml) was added and the mixture was heated at 240° C. for 6 hours. The mixture was allowed to cool and diluted with petroleum ether. The resulting solid was collected by filtration and purified by reverse phase chromatography on a Diaion (trade mark of Mitsubishi) HP20SS resin column eluting with acetonitrile/water (40/60) to give 6-methoxy-7-(2-methoxyethoxy)-1,4-dihydroquinolin-4-one (500 mg, 8%).

reactant | 4-methoxy-3-(2-methoxyethoxy)aniline | 25.3 mmol, 5 g | COC1=C(C=C(N)C=C1)OCCOC | C10H15NO3
reactant | diethyl ethoxymethylenemalonate | 30 mmol, 6 ml | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | Phenyl ether | 5 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 6-methoxy-7-(2-methoxyethoxy)-1,4-dihydroquinolin-4-one | 500 mg, 8% | COC=1C=C2C(C=CNC2=CC1OCCOC)=O | C13H15NO4
